US04057636
N-n-Butyl-N"-cyano-N'-3-pyridylguanidine
By following the procedure of Example 1, but substituting N-n-Butyl-N'-3-pyridylcarbodiimide for the N-tert-butyl-N'-3-pyridylcarbodiimide, the desired compound was obtained with a melting point of 96.0°-97.0° C.

reactant | N-n-Butyl-N'-3-pyridylcarbodiimide | C(CCC)N=C=NC=1C=NC=CC1 | C10H13N3
reactant | N-tert-butyl-N'-3-pyridylcarbodiimide | C(C)(C)(C)N=C=NC=1C=NC=CC1 | C10H13N3
product | N-n-Butyl-N"-cyano-N'-3-pyridylguanidine | C(CCC)NC(=NC#N)NC=1C=NC=CC1 | C11H15N5
